US06887889B2
To a stirred solution of 4-[(3-chloro-4-fluoro-benzenesulfonylamino)-methyl]-4-(4-iodo-phenyl)-piperidine-1 carboxylic acid tert-butyl ester (0.09 g, 0.16 mmol) in CH2Cl2 (1.5 mL) at 0° C. was added TFA (0.5 mL, to give a 25% v/v solution). The mixture was stirred at room temperature for 3 h. TLC (4:1 hexanes/EtOAc) showed no starting material left. The solvent was removed by rotary evaporation and the resulting liquid was evaporated from toluene (2×10 mL), diluted with EtOAc (100 mL) and washed with 10% aqueous NaHCO3 solution (2×50 mL) and saturated brine (50 mL). The organic layer was dried over anhydrous Na2SO4, filtered, concentrated by rotary evaporation, and dried under high vacuum for 1 h to give 3-chloro-4-fluoro-N-[4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-benzenesulfonamide as a reddish solid (0.021 g, ˜0.04 mmol). MS: 509/511 (M+1).

reactant | 4-[(3-chloro-4-fluoro-benzenesulfonylamino)-methyl]-4-(4-iodo-phenyl)-piperidine-1 carboxylic acid tert-butyl ester | 0.16 mmol, 0.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CNS(=O)(=O)C1=CC(=C(C=C1)F)Cl | C23H27ClFIN2O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-fluoro-N-[4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-benzenesulfonamide | ˜0.04 mmol, 0.021 g | ClC=1C=C(C=CC1F)S(=O)(=O)NCC1(CCNCC1)C1=CC=C(C=C1)I | C18H19ClFIN2O2S
